US04003908
2.4 g. of 5-Amino-6-methylamino-4-chloro-2-methylpyridine-3-carboxylic acid ethyl ester (0.01 mol.) and 10 ml. of orthoformic acid triethyl ester are refluxed for 12 hours. After the excess ortho ester has been removed, the residue is recrystallized from ethyl acetate to obtain 7-chloro-3,5-dimethyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid ethyl ester, m.p. 56°-58° . Yield 2.2 g. (88%).

reactant | 5-Amino-6-methylamino-4-chloro-2-methylpyridine-3-carboxylic acid ethyl ester | 0.01 mol | C(C)OC(=O)C=1C(=NC(=C(C1Cl)N)NC)C | C10H14ClN3O2
reactant | orthoformic acid triethyl ester | C(C)OC(OCC)OCC | C7H16O3
product | 7-chloro-3,5-dimethyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=NC1C)N(C=N2)C)Cl | C11H12ClN3O2
